US05223513
A mixture of ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro -1-methyl-2-oxoquinoline-3-carboxylate (1.3 g), ethanol (6.0 ml) and potassium hydroxide (0.6 g) was refluxed for 15 minutes. The mixture was diluted with water and acidified by addition of 2N-hydrochloric acid. The precipitated crystals were collected and recrystallized from ethanol to obtain colorless plates of 6-chloro-4-(2-chlorophenyl) -1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylic acid (1.20 g, 85.0%). mp 197°-198° C.

reactant | ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro -1-methyl-2-oxoquinoline-3-carboxylate | 1.3 g | ClC=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)OCC)C1=C(C=CC=C1)Cl | C19H15Cl2NO3
reactant | ethanol | 6.0 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 6-chloro-4-(2-chlorophenyl) -1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylic acid | 1.20 g, 85.0% | ClC=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)O)C1=C(C=CC=C1)Cl | C17H11Cl2NO3
